US07781591B2
1-[2-(4-Bromo-3-chlorophenoxy)ethyl]-4-methyl-piperazine was reacted with n-BuLi at 0° C. in the presence of triisopropyl borate to give diisopropyl 2-chloro-4-(2-(4-methylpiperazin-1-yl)ethoxy)phenylboronate upon warming to room temperature.

reactant | 1-[2-(4-Bromo-3-chlorophenoxy)ethyl]-4-methyl-piperazine | BrC1=C(C=C(OCCN2CCN(CC2)C)C=C1)Cl | C13H18BrClN2O
reactant | n-BuLi | [Li]CCCC
reactant | triisopropyl borate | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
product | diisopropyl 2-chloro-4-(2-(4-methylpiperazin-1-yl)ethoxy)phenylboronate | ClC1=C(C=CC(=C1)OCCN1CCN(CC1)C)B(OC(C)C)OC(C)C | C19H32BClN2O3
